US05242925
Analogously to Example 1, reaction of 1-(4-bromobutyl)benzimidazole with 6-piperazino-1,4-benzodioxane ("A") in 200 ml of acetonitrile gives 6-[4-(4-(benzimidazol-1-yl)butyl)piperazino]-1,4-benzodioxane, m.p. 247-248°.

reactant | 1-(4-bromobutyl)benzimidazole | BrCCCCN1C=NC2=C1C=CC=C2 | C11H13BrN2
reactant | 6-piperazino-1,4-benzodioxane | N1(CCNCC1)C1=CC2=C(OCCO2)C=C1 | C12H16N2O2
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | 6-[4-(4-(benzimidazol-1-yl)butyl)piperazino]-1,4-benzodioxane | N1(C=NC2=C1C=CC=C2)CCCCN2CCN(CC2)C2=CC1=C(OCCO1)C=C2 | C23H28N4O2
